// Point Netlist Generated on: Oct 24 15:49:13 2024
// Generated for: spectre
// Design Netlist Generated on: Oct 24 15:49:12 2024
// Design library name: fanout-tests
// Design cell name: fanout-question-4
// Design view name: schematic
simulator lang=spectre
include "ade_e.scs"
global 0 vdd!
parameters temperature=27
include "/home/tools/cadence/gpdk/gpdk045_v_6_0/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: fanout-tests
// Cell name: fanout-question-4
// View name: schematic
NM0 (out dut_in 0 0) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
PM0 (out dut_in vdd! vdd!) g45p1svt w=(360n) l=45n nf=1 as=50.4f ad=50.4f \
        ps=1u pd=1u nrd=388.889m nrs=388.889m sa=140n sb=140n sd=160n \
        sca=120.18141 scb=0.09258 scc=0.01447 m=(1)
v0 (dut_in 0) vsource dc=1 type=dc
include "./_graphical_stimuli.scs"
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dc dc dev=v0 param=dc start=0 stop=1 step=0.001 write="spectre.dc" \
    oppoint=rawfile maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save out 
saveOptions options save=allpub
